US06337342B1
a) 2-(N-tert-Butoxycarbonylamino)-1-{1-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-propyl]-3-indolyl}-3-phenyl-1-propanone
2-(N-tert-butoxycarbonylamino)-1-{1-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-propyl]-3-indolyl}-1-ethanone (0.30 g, 0.65 mmol) was dissolved in dry THF (7.5 ml) and cooled to −10° C., sodium bis(trimethylsilyl)amide (0.65 ml, 1 M in THF, 0.65 mmol) was added and the resulting yellow solution stirred for 15 minutes. Benzylbromide (0.16 ml, 1.30 mmol) was added and the stirring continued for 15 minutes at −10° C., the cooling bath was removed and stirring continued for 4 hours. Saturated NH4Cl(aq) was added followed by removal of the aqueous phase. The organic solvent was evaporated in vacuum and the residue chromatographed furnishing the sub-title product (0.28 g, 79%).

reactant | 2-(N-tert-butoxycarbonylamino)-1-{1-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-propyl]-3-indolyl}-1-ethanone | 0.65 mmol, 0.30 g | C(C)(C)(C)OC(=O)NCC(=O)C1=CN(C2=CC=CC=C12)CCCN1C(C2=CC=CC=C2C1=O)=O | C26H27N3O5
reactant | sodium bis(trimethylsilyl)amide | 0.65 mmol, 1 M, 0.65 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Benzylbromide | 1.30 mmol, 0.16 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
product | 2-(N-tert-Butoxycarbonylamino)-1-{1-[3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-propyl]-3-indolyl}-3-phenyl-1-propanone | 0.28 g, 79% | C(C)(C)(C)OC(=O)NC(C(=O)C1=CN(C2=CC=CC=C12)CCCN1C(C2=CC=CC=C2C1=O)=O)CC1=CC=CC=C1 | C33H33N3O5
